US07368453B2
Step 3. Synthesis of 2-Chloro-3-[2-(2,4-dichlorophenyl)ethyl]-7-nitro-4(3H)-quinazolinone
3-[2-(2,4-Dichlorophenyl)ethyl]-7-nitro-2,4(1H,3H)-quinazolinedione (2.0 g, 5.26 mmol) and PCl5 (1.2 g, 5.79 mmol) were added to a flask containing POCl3 (20 mL) and the resulting solution was refluxed with stirring for 6 hours. The reaction was allowed to cool to RT and stirred overnight at this temp. The POCl3 was removed under reduced pressure and CH2Cl2 was added to the residue. The unreacted starting material was removed via vacuum filtration and the product was purified by silica gel flash chromatography (100% CH2Cl2 eluent) to give the product (0.96 g, 46% yield) as a white solid. 1H NMR (DMSO-D6) 400 MHz 6 ppm 8.35-8.25 (m, 3H), 7.58 (d, J=2.2 Hz, 1H), 7.41-7.34 (m, 2H), 4.41 (t, J=7.5 Hz, 2H), 3.15 (t, J=7.5 Hz, 2H) ppm.

reactant | 3-[2-(2,4-Dichlorophenyl)ethyl]-7-nitro-2,4(1H,3H)-quinazolinedione | 5.26 mmol, 2.0 g | ClC1=C(C=CC(=C1)Cl)CCN1C(NC2=CC(=CC=C2C1=O)[N+](=O)[O-])=O | C16H11Cl2N3O4
reactant | PCl5 | 5.79 mmol, 1.2 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | POCl3 | 20 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-3-[2-(2,4-dichlorophenyl)ethyl]-7-nitro-4(3H)-quinazolinone | 0.96 g, 46% yield | ClC1=NC2=CC(=CC=C2C(N1CCC1=C(C=C(C=C1)Cl)Cl)=O)[N+](=O)[O-] | C16H10Cl3N3O3
